US03994941
In the manner given in Example 1, 8-nitro-6-(o-chlorophenyl)-1-methyl-4H-s-triazolo[4,3-a][1,4]-benzodiazepine in xylene was heated in an oil bath with repeated additions of portions of paraformaldehyde to give 8-nitro-1-(2-hydroxyethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8-nitro-6-(o-chlorophenyl)-1-methyl-4H-s-triazolo[4,3-a][1,4]-benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=NN3)C)C3=C(C=CC=C3)Cl)C1 | C17H12ClN5O2
reactant | paraformaldehyde | C=O | CH2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 8-nitro-1-(2-hydroxyethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=NN3)CCO)C3=C(C=CC=C3)Cl)C1 | C18H14ClN5O3
